* CL05A225KP5NSN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 2.2uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.07mm
*     Width = 0.50+/-0.07mm
*     Thickness = 0.50+/-0.07mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 1.25V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A225KP5NSN_Precise_DC1.25V_25degC 1 2
C1 1 3 1.53662E-6
C2 3 4 5.42678E-5
C3 4 5 4.42625E-5
C4 5 6 5.06926E-5
C5 6 7 5.08368E-5
C6 7 8 4.47985E-5
C7 8 9 2.15760E-5
C8 9 10 1.0E-10
C16 17 18 0.00150
C17 18 19 2.51215E-4
C18 19 20 4.92283E-6
C19 20 21 1.62266E-5
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 5.54456E-5
C23 24 25 6.06964E-6
C24 25 26 5.88990E-7
C25 26 27 2.53303E-4
C26 27 28 1.51288E-11
C27 28 2 2.53303E-4
L10 11 12 7.95249E-11
L11 12 13 1.19524E-10
L12 13 14 3.90344E-11
L13 14 15 2.67821E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 3.93174E-12
L17 18 19 6.48940E-12
L18 19 20 1.22807E-10
L19 20 21 2.53197E-11
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 0.01127
L23 24 25 2.47684E-11
L24 25 26 8.48570E-11
L25 26 27 1.0E-10
L26 27 28 2.43349E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 177.66709
R3 4 5 26.67874
R4 5 6 0.64963
R5 6 7 0.12084
R6 7 8 0.01994
R7 8 9 0.00531
R8 9 10 1.0E-6
R9 10 11 0.00356
R11 12 13 0.03657
R12 13 14 0.12128
R13 14 15 0.29040
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 5.03664E-4
R17 18 19 0.00104
R18 19 20 0.00111
R19 20 21 1.31641E-4
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 3.23605
R23 24 25 0.00372
R24 25 26 0.00856
R25 26 27 1.0E-6
R26 27 28 2.54128
R27 28 2 1.0E-6
.ENDS CL05A225KP5NSN_Precise_DC1.25V_25degC